US04140843
α,α'-dihydroxy-2,5-difluoro-paraxylene
A solution of 63.2 g (0.265 mols of 2,3,5,6-tetrafluoroterephthalic acid (m.p. 268 - 271° C., obtainable from Pierce-Chemical, Rockford, Ill., U.S.A., in 450 ml of tetrahydrofuran are introduced in the course of 1 hour into a solution of 40.3 g (1.06 mols) of lithium aluminium hydride in 1200 ml of tetrahydrofuran. The reaction mixture is refluxed for 24 hours, then cooled to 10° C. and treated carefully with 40 ml of 15% sodium hydroxide solution and finally with 120ml of water. The white precipitate is filtered off, washed with 500 ml of tetrahydrofuran, and the clear filtrate concentrated at 60° C. under vacuum. 37.9 g of slightly yellow-colored crystals are obtained. This-layer chromatography reveals them to be a mixture of at least three substances. To isolate a unitary substance, the batch is dissolved in 500 ml of ether, 2.8 g of insoluble constituents are removed by filtration, and the ethereal solution concentrated to one-third its volume. It is then treated with 35 ml of pentane and cooled to 10° C., white crystals precipitating. After two recrystallizations from ether+pentane, 3.4 g of fine needles are obtained which melt at 107-109° C.

reactant | 2,3,5,6-tetrafluoroterephthalic acid | 0.265 mols | FC1=C(C(=O)O)C(=C(C(=C1F)C(=O)O)F)F | C8H2F4O4
reactant | lithium aluminium hydride | 1.06 mols, 40.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | water | 120ml | O | H2O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
product | α,α'-dihydroxy-2,5-difluoro-paraxylene | OCC1=C(C=C(C(=C1)F)CO)F | C8H8F2O2
